US07691882B2
2-Amino-6-methoxymethyl-pyridine-3-carbaldehyde
To a mixture of (2-amino-6-methoxymethyl-pyridin-3-yl)methanol (260 mg, 1.5 mmol) described in Manufacturing Example 26-1-5 and methylene chloride (15 mL) was added manganese dioxide (1.3 g, 15 mmol), which was stirred overnight at room temperature. The reaction mixture was filtered through a Celite pad, and the filtrate was concentrated under a reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate:heptane=3:2) to obtain the title compound (210 mg, 81%).

reactant | (2-amino-6-methoxymethyl-pyridin-3-yl)methanol | 1.5 mmol, 260 mg | NC1=NC(=CC=C1CO)COC | C8H12N2O2
catalyst | manganese dioxide | 15 mmol, 1.3 g | [O-2].[O-2].[Mn+4]
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
product | 2-Amino-6-methoxymethyl-pyridine-3-carbaldehyde | 210 mg, 81% | NC1=NC(=CC=C1C=O)COC | C8H10N2O2
